US07326732B2
(i) (3-Acetylamino-phenoxy)-acetic acid ethyl ester
To a solution of N-(3-hydroxy-phenyl)-acetamide (0.5 g, 3.3 mmol) in acetone (5 ml) was added K2CO3 (0.46 g, 3.3 mmol), ethyl bromoacetate (0.67 g, 4.0 mmol) and 10 4A molecular sieves. The reaction mixture was then heated in the microwave for 1 h at 100° C. (150 W, 200 psi). The reaction mixture was filtered and the acetone layer evaporated in vacuo. This residue was dissolved in EtOAc (10 ml) and washed with 2M KOH (5 ml×2). The organic layer was dried (Na2SO4), filtered and the solvent removed in vacuo to give the title compound as a colourless oil which solidified upon standing.

reactant | N-(3-hydroxy-phenyl)-acetamide | 3.3 mmol, 0.5 g | OC=1C=C(C=CC1)NC(C)=O | C8H9NO2
reactant | K2CO3 | 3.3 mmol, 0.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 4.0 mmol, 0.67 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | (3-Acetylamino-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC(=CC=C1)NC(C)=O)=O | C12H15NO4
